US08349835B2
Step C: General Procedure for the Synthesis of 1-phenyl-3-(2-cyano-6-chloro-3-pyridyl)triazene
2-cyano-6-chloro-3-pyridinylamine (0.153 g, 1 mmol) was added into 3 mL of hydrochloric acid (10 mol/L), and then cooled to 0° C. in ice-salt bath. Sodium nitrite (0.072 g) dissolved in water (1.0 mL) was added to the solution dropwise under stirring for 20 min. The diazonium solution was neutralized with 0.093 g of aniline (1.0 mmol) dissolved in anhydrous ethanol to pH 5-6 and stirred for 2 h at 0-5° C. The solution was kept overnight, filtered, and washed with water till colorless to yield the crude product. The crude product was purified on a silica gel column with petroleum ether:ethylacetate (v/v)=20:1 to yield yellow solid product (0.116 g) with a recovery rate of 45.1%.

reactant | 2-cyano-6-chloro-3-pyridinylamine | 1 mmol, 0.153 g | C(#N)C1=NC(=CC=C1N)Cl | C6H4ClN3
reactant | hydrochloric acid | 10 mol/L, 3 mL | Cl | ClH
reactant | Sodium nitrite | 0.072 g | N(=O)[O-].[Na+]
reactant | aniline | 1.0 mmol, 0.093 g | NC1=CC=CC=C1 | C6H7N
solvent | water | 1.0 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-phenyl-3-(2-cyano-6-chloro-3-pyridyl)triazene | 0.116 g | C1(=CC=CC=C1)N=NNC=1C(=NC(=CC1)Cl)C#N | C12H8ClN5
